US05587379
A mixture of 7.0 mL (0.05 mole) of 3-trifluoromethylphenyl bromide, 1.2 grams (0.05 mole) of magnesium and a crystal of iodine in about 70 mL of tetrahydrofuran was warmed to 35° C. to initiate the formation of the Grignard reagent. Upon formation of the Grignard reagent, the reaction mixture was cooled to ambient temperature and, with stirring, a solution of 5.8 mL (0.05 mole) of 5-oxohexanenitrile in 10 mL of tetrahydrofuran was added dropwise. The reaction mixture temperature increased to about 35° C., at which time the rate of addition was slowed to keep the reaction mixture temperature at about 35°-40° C. The complete addition required about 15 minutes. Upon completion of the addition, the reaction mixture was allowed to warm to ambient temperature, where it was stirred for 2 hours. After this time, the reaction mixture was poured into 200 mL of water and was acidified with aqueous 2N hydrochloric acid. The mixture was then extracted with two 150 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. The oil was subjected to column chromatography on silica gel. Elution was accomplished using methylene chloride. The product-containing fractions were combined and concentrated under reduced pressure, yielding 6.3 grams of 5-hydroxy-5-(3-trifluoromethylphenyl)hexanenitrile. The NMR spectrum was consistent with the proposed structure.

reactant | 3-trifluoromethylphenyl bromide | 0.05 mole, 7.0 mL | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | magnesium | 0.05 mole, 1.2 grams | [Mg] | Mg
reactant | iodine | II | I2
reactant | 5-oxohexanenitrile | 0.05 mole, 5.8 mL | O=C(CCCC#N)C | C6H9NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | about 70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 5-hydroxy-5-(3-trifluoromethylphenyl)hexanenitrile | 6.3 grams | OC(CCCC#N)(C)C1=CC(=CC=C1)C(F)(F)F | C13H14F3NO
